US05688798
A solution of 0.70 g (0.00275 mol) of 5-(3,4-dihydro-1H-isoquinolin-2-ylmethyl)-2-methyl-pyrimidin-4-ylamine in 15 ml of methanol was treated with 0.85 ml (0.00435 mol) of 3.5N ethanolic hydrochloric acid. The solution was completely freed from the solvents and the residue was recrystallized from methanol. 0.29 g (32%) of 5-(3,4-dihydro-1H-isoquinolin-2-ylmethyl)-2-methyl-pyrimidin-4-ylamine dihydrochloride was obtained as white crystals; m.p. 260°-265°.

reactant | 5-(3,4-dihydro-1H-isoquinolin-2-ylmethyl)-2-methyl-pyrimidin-4-ylamine | 0.00275 mol, 0.70 g | C1N(CCC2=CC=CC=C12)CC=1C(=NC(=NC1)C)N | C15H18N4
reactant | hydrochloric acid | 0.00435 mol, 3.5N, 0.85 ml | Cl | ClH
solvent | methanol | 15 ml | CO | CH4O
product | 5-(3,4-dihydro-1H-isoquinolin-2-ylmethyl)-2-methyl-pyrimidin-4-ylamine dihydrochloride | 0.29 g, 32% | Cl.Cl.C1N(CCC2=CC=CC=C12)CC=1C(=NC(=NC1)C)N | InChI=1S/C15H18N4.2ClH/c1-11-17-8-14(15(16)18-11)10-19-7-6-12-4-2-3-5-13(12)9-19;;/h2-5,8H,6-7,9-10H2,1H3,(H2,16,17,18);2*1H
